US06063782
1-(2-Butenyl)-2,3-dimethyl-7-(3-pyridylmethyloxy)pyrrolo[2,3-d]pyridazine
The title compound (cis/trans=22/78) was prepared as a pale yellow powder in 45.9% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=20/80) and 3-pyridinemethanol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 3-pyridinemethanol | N1=CC(=CC=C1)CO | C6H7NO
product | 1-(2-Butenyl)-2,3-dimethyl-7-(3-pyridylmethyloxy)pyrrolo[2,3-d]pyridazine | 45.9% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC=2C=NC=CC2)C)C | C18H20N4O
